datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O+:10](C(C9=CC=CC=C9)C([H])C([H])[S]1)[C:20]1([O:21][H])[S]CC.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C([H])[S][C:20]([S]CC)=[O+:21][H] 21=20;20,10=10"
"[H][S:10]C(CC)C(C)C(C8=CC=CC=C8)[S][C:20]([S]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(CC)C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7 10=20;20,21=21"
"[NH:10](C)C(C)C([H])/C([H])=C(C)\[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(C)=C([H])C([H])C(C)[NH+:10]1(C) 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C([H])C(C8=CC=CC=C8)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C([H])C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[OH:10]C(CCC)C([H])C([H])C(C)[C:20]([H])=[OH+:21]>>[OH:21][C:20]1([H])C(C)C([H])C([H])C(CCC)[OH+:10]1 10=20;20,21=21"
"[O-:10]C(C)/C([H])=C([C:20]([H])=[O:21])/[H]>>[O-:21][C:20]1([H])[O:10]C(C)C([H])=C1[H] 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(C8=CC=CC=C8)[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](CC)C(C)[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[H][S+:10](C([H])C([H])C(C)[S]1)[C:20]1([O:21]C)[S][H].[Cl-]>>[Cl-].[H][S:10]C([H])C([H])C(C)[S][C:20]([S][H])=[O+:21]C 21=20;20,10=10"
"[H][NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O]C)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[O:10]([K])C(C)C(C)C(O)C(O)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(O)C(O)C(C)C(C)[O+:10]1([K]) 10=20;20,21=21"
"C[NH+:10]([H])[C:20]1([NH:21]C)[O][CH](C)C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](C)[CH](C)C(C8=CC=CC=C8)[O]2.C[NH:10][H] 21=20;20,10=10"
"[H][O+:10](C(CC)C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][H])[O][H].[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])C(C8=CC=CC=C8)[S][C:20]([O][H])=[O+:21][H] 21=20;20,10=10"
"[H][O+:10](C(CC)C([H])C(CC)[S]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])C(CC)[S][C:20]([O]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"[H][O+:21]=[C:20]2[O][CH](C)[CH](C)C([H])[S]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][H])[O][CH](C)C(C)[CH]([H])[S]1 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OC1=CC=CC=C1)CCCCCC.[O-:21]CC>>C1=CC=CC=C1N([C:20]([O-:10])(OC1=CC=CC=C1)[O:21]CC)CCCCCC 21=20;20,10=10"
"[H]C1C(O[C:20](=[O:10])N1CCCCCC)CC.[O-:21][H]>>[H]C1C(O[C:20](N1CCCCCC)([O-:10])[O:21][H])CC 21=20;20,10=10"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)[H])CC)CCCCCC)[O-:10])C1=CC=CC=C1>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])[H])CC)CCCCCC)C1=CC=CC=C1 10=20;20,21=21"
"C[O+:21]=[C:20]2[S][CH](C)[CH](C)C(CC)[O]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21]C)[S][CH](C)C(C)[CH](CC)[O]1 10=20;20,21=21"
"C(C([O-:21])[H])(C(O[C:20](=[O:10])OC1=CC=CC=C1)CC)CCCCCC>>C1(C(O[C:20]([O-:10])([O:21]C1[H])OC1=CC=CC=C1)CC)CCCCCC 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C)[CH](C)C(C)[NH]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C)C(C)[CH](C)[NH]1 10=20;20,21=21"
"[H][S+:10](C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[S]CC.[Cl-]>>[Cl-].[H][S:10]C([H])C(C8=CC=CC=C8)[S][C:20]([S]CC)=[O+:21]C 21=20;20,10=10"
"C[O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[S]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21]C)[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[S]1 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1[H])([O-:10])[Cl:21])CC)C1=CC=CC=C1>>CCCCCCC1C(C(O[C:20](=[O:10])N1[H])CC)C1=CC=CC=C1.[Cl-:21] 10=20;20,21=21"
"[O:10]([K])C([H])C(C)C([C:20](OCC)=[O:21])[H]>>[O-:21][C:20]1(OCC)[O+:10]([K])C([H])C(C)C1[H] 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](=[O:10])N1C)[H])[H].[O-:21][H]>>CCCCCCC1C(C(O[C:20](N1C)([O-:10])[O:21][H])[H])[H] 21=20;20,10=10"
"[H][O:10]C([H])C(C8=CC=CC=C8)[S][C:20]([S]CC)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][H])[S]CC 10=20;20,21=21"
"C[S+:10]([H])[C:20]([O:21]C)([S]C8=CC=CC=C8)[O]C.[Cl-]>>[Cl-].C[S:10][H].C[O+:21]=[C:20]([S]C8=CC=CC=C8)[O]C 21=20;20,10=10"
"[H][NH+:10](C([H])C([H])C(C)[NH]1)[C:20]1([NH:21]C)[O]C.[Cl-]>>[Cl-].[H][NH:10]C([H])C([H])C(C)[NH][C:20]([O]C)=[NH+:21]C 21=20;20,10=10"
"[O-:10]C(CCC)C(C)C(C)C(O)[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(O)C(C)C(C)C(CCC)[O:10]1 10=20;20,21=21"
"[O-:21][C:20]1(C)C(O)C([H])C(C)C(CC)[NH+:10]1([H])>>[NH:10]([H])C(CC)C(C)C([H])C(O)[C:20](C)=[O:21] 21=20;20,10=10"
"[H][O+:10](C(CC)C(C)[O]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)[O][C:20]([S]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C(C([O-:21])C)[H])[H])[H]>>CN([C:20]1(OC(C(C([O:21]1)C)[H])[H])[O-:10])[H] 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](=[O:10])N1CCCCCC)[H])CC.[O-:21]CCCCCC>>CCCCCCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CCCCCC)[H])CC 21=20;20,10=10"
"C[S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C([H])C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[S]C([H])C(C8=CC=CC=C8)[O]2.C[S:10][H] 21=20;20,10=10"
"CCN([C:20]1(OC(C(C([O:21]1)CC)C)C)[O-:10])[H]>>CCN([C:20](=[O:10])OC(C(C([O-:21])CC)C)C)[H] 10=20;20,21=21"
"CCCCCCC1C(O[C:20](=[O:10])N1[H])C.[O-:21][H]>>CCCCCCC1C(O[C:20](N1[H])([O-:10])[O:21][H])C 21=20;20,10=10"
